US06743814B2
1.2 g of 4-chloromethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole, 0.5 g of sodium thiomethoxide and 0.1 g of sodium iodide were added to 20 ml of dimethylformamide (hehydrated) and stirred at 80° C. for 10 hours. After cooling, 200 ml of water were added to the reaction mixture and extracted with 100 ml of diethyl ether twice. The extracted diethyl ether layers were put together, washed with 200 ml of water, dried with magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography (eluent: hexane:dichloromethane=2:1) to obtain 0.3 g of 4-methylthiomethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole as colorless oil (yield 23.9%). n20D=1.5099.

reactant | 4-chloromethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 1.2 g | ClCC=1N=C(OC1)SCCC(=C(F)F)F | C8H7ClF3NOS
reactant | sodium thiomethoxide | 0.5 g | C[S-].[Na+]
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 4-methylthiomethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 0.3 g, yield 23.9% | CSCC=1N=C(OC1)SCCC(=C(F)F)F | C9H10F3NOS2
